US08030346B2
Preparation of 6-((Carboxymethyl)carbamoyl)-7-hydroxy-3,4-dimethyl-5-oxo-4,5-dihydrothieno[3,2-b]pyridine-2-carboxylic Acid
6-((2-tert-Butoxy-2-oxoethyl)carbamoyl)-7-hydroxy-3,4-dimethyl-5-oxo-4,5-dihydrothieno[3,2-b]pyridine-2-carboxylic acid. The title compound is prepared by palladium catalyzed carbonylation of tert-butyl 2-(2-bromo-7-hydroxy-3,4-dimethyl-5-oxo-4,5-dihydrothieno[3,2-b]pyridine-6-carboxamido)acetate with carbon monoxide in MeOH according to the procedure set forth in Tsuji, J. Palladium Reagents and catalysts: Innovations in Organic Synthesis Publisher: (Wiley, Chichester, UK), 340-5 (1995).

reactant | 6-((2-tert-Butoxy-2-oxoethyl)carbamoyl)-7-hydroxy-3,4-dimethyl-5-oxo-4,5-dihydrothieno[3,2-b]pyridine-2-carboxylic acid | C(C)(C)(C)OC(CNC(=O)C1=C(C2=C(N(C1=O)C)C(=C(S2)C(=O)O)C)O)=O | C17H20N2O7S
reactant | tert-butyl 2-(2-bromo-7-hydroxy-3,4-dimethyl-5-oxo-4,5-dihydrothieno[3,2-b]pyridine-6-carboxamido)acetate | BrC1=C(C=2N(C(C(=C(C2S1)O)C(=O)NCC(=O)OC(C)(C)C)=O)C)C | C16H19BrN2O5S
reactant | carbon monoxide | [C]=O | CO
solvent | MeOH | CO | CH4O
catalyst | palladium | [Pd] | Pd
product | 6-((Carboxymethyl)carbamoyl)-7-hydroxy-3,4-dimethyl-5-oxo-4,5-dihydrothieno[3,2-b]pyridine-2-carboxylic Acid | C(=O)(O)CNC(=O)C1=C(C2=C(N(C1=O)C)C(=C(S2)C(=O)O)C)O | C13H12N2O7S
